US06855724B2
N-[(1S)-1-(3-Fluorophenyl)-3-hydroxypropyl]acetamide
A stirred suspension of ethyl (3S)-3-(acetylamino)-3-(3-fluorophenyl)propanoate (2.5 g, 9.9 mmol) and sodium borohydride (0.76 g, 20 mmol) in THF (20 ml) was heated at 50° C. under a nitrogen atmosphere. Methanol (1.8 ml) was then carefully added dropwise and the reaction mixture heated under reflux for one hour. The reaction was allowed to cool to room temperature then water (10 ml) and aqueous sodium hydroxide solution (1.5 g NaOH in 4 ml water) carefully added dropwise. The solution was extracted with ethyl acetate (3×30 ml) and the combined organic extracts dried (MgSO4) and evaporated to give the title compound as a white solid (2.08 g).

reactant | ethyl (3S)-3-(acetylamino)-3-(3-fluorophenyl)propanoate | 9.9 mmol, 2.5 g | C(C)(=O)N[C@@H](CC(=O)OCC)C1=CC(=CC=C1)F | C13H16FNO3
reactant | sodium borohydride | 20 mmol, 0.76 g | [BH4-].[Na+]
reactant | Methanol | 1.8 ml | CO | CH4O
reactant | sodium hydroxide | 4 ml, 1.5 g | [OH-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | N-[(1S)-1-(3-Fluorophenyl)-3-hydroxypropyl]acetamide | 2.08 g | FC=1C=C(C=CC1)[C@H](CCO)NC(C)=O | C11H14FNO2
